US04558115
B. Preparation of Bisphenol A Dicyanate
A 228.3 gram portion of 4,4'-isopropylidenediphenol (1.50 moles), 333.68 grams of cyanogen bromide (3.15 moles) and 1000 milliliters of acetone were added to a reactor and maintained under a nitrogen atmosphere with stirring. The stirred solution was cooled to -5° C. then 305.09 grams of triethylamine (3.015 moles) was added to the reactor over a twenty-four minute (1440 s) period and so as to maintain the reaction temperature at -5° to 0° C. After completion of the triethylamine addition, the reactor was maintained at 0° to 7° C. for an additional forty-five minutes (2700 s), followed by addition of the reactor contents to 1 gallon of chilled deionized water. After twenty minutes (1200 s) the water and product mixture was extracted with three 500 milliliter portions of methylene chloride. The combined methylene chloride extract was washed with 500 milliliters of 5 percent aqueous hydrochloric acid followed by washing with 1000 milliliters of deionized water then drying over anhydrous sodium sulfate. The dry methylene chloride solution was filtered and solvent removed by rotary evaporation under vacuum. Bisphenol A dicyanate (393.8 grams) was recovered in 94.3 percent yield as a white crystalline solid. Infrared spectrophotometric analysis of a film sample of the product confirmed the product structure (disappearance of phenolic hydroxy group, appearance of --C≡N group).

reactant | 4,4'-isopropylidenediphenol | 1.50 moles | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
reactant | cyanogen bromide | 3.15 moles, 333.68 grams | N#CBr | CBrN
reactant | acetone | 1000 milliliters | CC(=O)C | C3H6O
reactant | triethylamine | 3.015 moles, 305.09 grams | C(C)N(CC)CC | C6H15N
solvent | water | 1 gallon | O | H2O
product | Bisphenol A Dicyanate | 94.3 percent yield | [O-]C#N.[O-]C#N.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2CHNO/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*2-1-3/h3-10,16-17H,1-2H3;2*3H/p-2
